US04883868
3.25 g (59.3 mM) of p-methoxybenzyl 7-benzylideneamino-3-iodomethyl-3-cephem-4-carboxylate was dissolved in 55 ml of 99% formic acid. Under cooling with ice, 23 ml of concentrated hydrochloric acid was added to this solution, and the mixture was stirred at room temperature for 1.5 hours. To the reaction solution, 200 ml of acetone and 400 ml of isopropyl ether were added. Precipitates were collected by filtration, washed with acetone and dried to obtain 12 g (yield: 53.7%) of 7-amino-3-iodomethyl-3-cephem-4-carboxylic acid hydrochloride.

reactant | p-methoxybenzyl 7-benzylideneamino-3-iodomethyl-3-cephem-4-carboxylate | 59.3 mM, 3.25 g | C(C1=CC=CC=C1)=NC1[C@@H]2N(C(=C(CS2)CI)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C23H21IN2O4S
reactant | hydrochloric acid | 23 ml | Cl | ClH
reactant | acetone | 200 ml | CC(=O)C | C3H6O
reactant | isopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
solvent | formic acid | 55 ml | C(=O)O | CH2O2
product | 7-amino-3-iodomethyl-3-cephem-4-carboxylic acid hydrochloride | 12 g, yield: 53.7% | Cl.NC1[C@@H]2N(C(=C(CS2)CI)C(=O)O)C1=O | InChI=1S/C8H9IN2O3S.ClH/c9-1-3-2-15-7-4(10)6(12)11(7)5(3)8(13)14;/h4,7H,1-2,10H2,(H,13,14);1H/t4?,7-;/m1./s1
